US07192982B2
(2-Chloro-phenyl)-(4-hydroxy-phenyl)-methanone
4-Tributylstannanyl-phenol linked to Wang's resin from Step A (1 eq), Pd2(dba)3 (0.3 eq) and K2CO3 (70 mg) were suspended in THF/Diisopropilmethylamine. To this mixture 2-chloro-benzoyl chloride was added and stirred for 2 hours. The suspension was filtered and the resin washed with MeOH/CH2Cl2/DMF, then HCl diluted/dioxane and Na2CO3 5%(dioxane) and DMF/MeOH/CH2Cl2. Once the resin was dried TFA 95% and CH2Cl2 were added and the mixture stirred at room temperature for 30 min. The resin was filtered and washed with MeOH/CH2Cl2. The solvents were collected and concentrated to dryness to give the title product.

reactant | 4-Tributylstannanyl-phenol | C(CCC)[Sn](C1=CC=C(C=C1)O)(CCCC)CCCC
reactant | K2CO3 | 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-benzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.3 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Chloro-phenyl)-(4-hydroxy-phenyl)-methanone | ClC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)O | C13H9ClO2
